US06071927
7-Bromo-5-trifluoromethoxy-2,3-dihydrobenzofuran
To a cooled (0° C.) of triphenylphosphine (6.11 g, 0.0234 mol) in tetrahydrofuran (40 ml) was added diethylazodicarboxylate (3.7 ml, 0.0234 mol). The solution was stirred for 30 min., whereupon a solution of 2-bromo-6-(2-hydroxyethyl)-4-trifluoromethoxyphenol (Desc 16.; 5.4 g, 0.018 mol) in tetrahydrofuran was added. The solution was stirred at room temperature for 15 h. and then the solvent was removed in vacuo. The residue was dissolved in ethyl acetate and the solution was washed with water, saturated brine, dried (MgSO4). After removal of the solvent in vacuo the residue was purified by chromatography on silica gel (eluting with 10% ethyl acetate in hexane) to give the title compound as a pink oil. 1H NMR (250 MHz, CDCl3) δ2.93 (2H, t, J 5.6 Hz), 3.98 (2H, t, J 5.4 Hz), 6.96 (1H, d, J 2.5 Hz), and 7.30 (1H, d, J 2.4 Hz).

reactant | triphenylphosphine | 0.0234 mol, 6.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.0234 mol, 3.7 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-bromo-6-(2-hydroxyethyl)-4-trifluoromethoxyphenol | 0.018 mol, 5.4 g | BrC1=C(C(=CC(=C1)OC(F)(F)F)CCO)O | C9H8BrF3O3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 7-Bromo-5-trifluoromethoxy-2,3-dihydrobenzofuran | BrC1=CC(=CC=2CCOC21)OC(F)(F)F | C9H6BrF3O2
